US04409229
A mixture of 4-(2,5-difluorophenyl)-4-hydroxy-1-methyl-piperidine, free base of a, 4 ml of boron trifluoride etherate, 5 ml of benzyl mercaptan and 5 ml of glacial acetic acid is stirred at 65° C. for 16 hours. Excess acid is removed under reduced pressure with the residue equilibrated with 0.5 N hydrochloric acid and ether and the resulting solution is stirred at 10°-20° C. for four hours. The resulting crystalline precipitate is sequentially collected by filtration, basified and extracted with ether providing the desired product as an oil. The oil is converted to its maleic acid salt which is recrystallized from an acetone-ether mixture to provide prisms, m.p. 164°-166° C. of 4-benzylthio-4-(2,5-difluorophenyl)-1-methylpiperidine maleate.

reactant | 4-(2,5-difluorophenyl)-4-hydroxy-1-methyl-piperidine | FC1=C(C=C(C=C1)F)C1(CCN(CC1)C)O | C12H15F2NO
reactant | boron trifluoride etherate | 4 ml | B(F)(F)F.CCOCC
reactant | benzyl mercaptan | 5 ml | C(C1=CC=CC=C1)S | C7H8S
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-benzylthio-4-(2,5-difluorophenyl)-1-methylpiperidine maleate | C(\C=C/C(=O)O)(=O)O.C(C1=CC=CC=C1)SC1(CCN(CC1)C)C1=C(C=CC(=C1)F)F | InChI=1S/C19H21F2NS.C4H4O4/c1-22-11-9-19(10-12-22,17-13-16(20)7-8-18(17)21)23-14-15-5-3-2-4-6-15;5-3(6)1-2-4(7)8/h2-8,13H,9-12,14H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
